US08309542B2
(d) 5-methyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid (as hydrochloride salt)
Prepared analogously to Example 45b starting from 2-ethyl 4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine-2-carboxylate (as the trifluoroacetate salt).

reactant | 2-ethyl 4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine-2-carboxylate | N1=C(C=C2N1CCNC2)C(=O)OCC | C9H13N3O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 5-methyl-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid | CN1CC=2N(CC1)N=C(C2)C(=O)O | C8H11N3O2
